US03969391
A solution of 0.500 part of 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoic acid dissolved in 25 parts by volume of hexamethyl phosphoramide is treated with 0.094 part of sodium hydride and stirred for 11/2 hours. Then 8.5 parts by volume of lithium aluminum hydride is added and the reaction mixture is stirred at room temperature for 1/2 hour and then heated at 70°-75° for 13/4 hours. The solution is acidified with hydrochloric acid and allowed to stand at room temperature for about 16 hours. Water and chloroform then are added to form 2 layers which are separated. The organic layer is extracted with 5% aqueous sodium carbonate. The sodium carbonate extracts are washed with chloroform and then acidified with hydrochloric acid. The acidified extracts are themselves extracted with ethyl acetate and washed with water, dried over anhydrous sodium sulfate and stripped of solvent. In that manner there is afforded 3-hydroxy-5-oxocyclopent-1-eneheptanoic acid.

reactant | 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoic acid | COC1=C(C(C(C1)O)=O)CCCCCCC(=O)O | C13H20O5
reactant | sodium hydride | [H-].[Na+]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethyl phosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | 3-hydroxy-5-oxocyclopent-1-eneheptanoic acid | OC1C=C(C(C1)=O)CCCCCCC(=O)O | C12H18O4
